US05543520
2.0 g (11.6 mmol) of 4-acetylisoquinoline [J. Chem. Soc., Perkin Trans. 1, (7), 1503-8]are stirred in 50 ml of dimethyl formamide diethyl acetal for 1 hour at 110° C. The reaction mixture is concentrated under reduced pressure and the residue is chromatographed (methylene chloride:methanol=95:5), giving 3-dimethylamino-1-(4-isoquinolinyl)-2-propen-1-one; 1H-NMR (dimethyl sulfoxide): 2.9 (3H,s), 3.1 (3H,s), 5.52 (1H,d), 7.7-8.2 (m,5H), 8.6 (1H,s), 9.35 (1H,s).

reactant | 4-acetylisoquinoline | 11.6 mmol, 2.0 g | C(C)(=O)C1=CN=CC2=CC=CC=C12 | C11H9NO
reactant | dimethyl formamide diethyl acetal | 50 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3-dimethylamino-1-(4-isoquinolinyl)-2-propen-1-one | CN(C=CC(=O)C1=CN=CC2=CC=CC=C12)C | C14H14N2O
